US04470972
Dissolve the 1,4-dithia-7-azaspiro[4.4]nonane-8(S)-carboxylic acid methyl ester hydrobromide from paragraph B in 0.1 N NaOH and extract with ethyl acetate. Dry the organic layer over magnesium sulfate and concentrate in vacuo to give 1,4-dithia-7-azaspiro[4.4]nonane-8(S)-carboxylic acid methyl ester (1.35 g). Dissolve the latter in 100 ml of ethyl acetate and treat with 2.07 g of N-benzyloxycarbonyl-(S)-alanine, N-hydroxysuccinimide ester. Stir the reaction mixture at room temperature for eighteen hours and concentrate in vacuo. Place the residue on a column of silica gel (300 g, 60-200 mesh) and elute with hexane:ethyl acetate 4:1 to obtain 7-[N-benzyloxycarbonyl-(S)-alanyl]-1,4-dithia-7-azaspiro[4.4]nonane-8(S)-carboxylic acid, methyl ester, a yellow oil [α]D26 =-14.8° (ethanol).

reactant | 1,4-dithia-7-azaspiro[4.4]nonane-8(S)-carboxylic acid methyl ester hydrobromide | Br.COC(=O)[C@H]1NCC2(SCCS2)C1
solvent | NaOH | 0.1 N | [OH-].[Na+]
product | 1,4-dithia-7-azaspiro[4.4]nonane-8(S)-carboxylic acid methyl ester | 1.35 g | COC(=O)[C@H]1NCC2(SCCS2)C1 | C8H13NO2S2
